US08614201B2
Intermediate 34: 2-[(4-Chloro-pyridin-2-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of N-boc-L-proline (0.50 g, 2.3 mmol) and (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (1.02 g, 2.3 mmol) in DCM was added triethylamine (1.40 g, 13.8 mmol) and the reaction mixture was stirred for 30 minutes. C-(4-Chloro-pyridin-2-yl)-methylamine dihydrogenchloride (0.50 g, 2.30 mmol) was added and the reaction mixture was stirred for 12 hours. Water was added and the reaction mixture was extracted with DCM. The organic layers were combined, dried with Na2SO4, filtered, concentrated and purified by FCC (0-60% EtOAc in hexane) to provide the desired product (0.93 g, 93%). 1H NMR (400 MHz, DMSO) δ 8.62-8.51 (m, 1H), 8.47 (dd, J=9.8, 5.3, 1H), 7.56-7.31 (m, 2H), 4.45-4.27 (m, 2H), 4.20-4.09 (m, 1H), 3.51-3.24 (m, 2H), 2.26-2.05 (m, 1H), 1.95-1.69 (m, 3H), 1.48-1.24 (m, 9H).

reactant | N-boc-L-proline | 2.3 mmol, 0.50 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 2.3 mmol, 1.02 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 13.8 mmol, 1.40 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 2-[(4-Chloro-pyridin-2-ylmethyl)-carbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.93 g, 93% | C(C)(C)(C)OC(=O)N1C(CCC1)C(NCC1=NC=CC(=C1)Cl)=O | C16H22ClN3O3
